US08211892B2
8.43 g of 4-(4-bromophenyl)piperazine-1-carboxylic acid benzyl ester are placed in a 500 ml three-necked flask under a nitrogen atmosphere. 170 ml of anhydrous o-xylene, 5.01 g of 3,4-dihydro-2H-quinoxaline-1-carboxylic acid tert-butyl ester and then 3.08 g of sodium tert-butoxide are added, followed by 0.48 g of palladium acetate, and then the addition is completed with 0.53 ml of tri(tert-butyl)phosphine. The reaction mixture is heated at 150° C. for 18 h. Heating is halted and the mixture is brought back to ambient temperature. The o-xylene is evaporated and the mixture is taken up in ethyl acetate before filtering it through celite. The organic phase is washed with water and then with a saturated aqueous sodium chloride solution. The aqueous phase is extracted with ethyl acetate. The organic phases are combined and then dried over sodium sulphate, filtered through a sintered glass filter and concentrated under vacuum. 8.9 g of 4-[4-(4-(Benzyloxycarbonyl)piperazin-1-yl)phenyl]-3,4-dihydro-2H-quinoxaline-1-carboxylic acid tert-butyl ester are obtained after purification on a silica column, elution being carried out with a gradient of heptane/ethyl acetate solvent varying from 95/5 to 60/40).

reactant | 4-(4-bromophenyl)piperazine-1-carboxylic acid benzyl ester | 8.43 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)Br | C18H19BrN2O2
reactant | 3,4-dihydro-2H-quinoxaline-1-carboxylic acid tert-butyl ester | 5.01 g | C(C)(C)(C)OC(=O)N1CCNC2=CC=CC=C12 | C13H18N2O2
reactant | sodium tert-butoxide | 3.08 g | CC(C)([O-])C.[Na+]
reactant | tri(tert-butyl)phosphine | 0.53 ml | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
catalyst | palladium acetate | 0.48 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | o-xylene | 170 ml | CC=1C=CC=CC1C | C8H10
product | 4-[4-(4-(Benzyloxycarbonyl)piperazin-1-yl)phenyl]-3,4-dihydro-2H-quinoxaline-1-carboxylic acid tert-butyl ester | 8.9 g | C(C)(C)(C)OC(=O)N1CCN(C2=CC=CC=C12)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C31H36N4O4
